US07741479B2
To a vial containing 5-tert-butyl-2-aminothiophene-3-carboxylic acid (1 mmol) in THF (7 mL) was added 2,3-dichlorophenyl isocyanate (1 mmol). The vial was capped and the solution was stirred at 70° C. for 21 hours. The reaction was cooled down to room temperature and the solvent was removed under vacuum. The oil residue was treated with dichloromethane and the resulting mixture was left to stand at room temperature for 1 hour. The solids were filtered, washed with minimal amount of dichloromethane and dried under vacuum to yield the expected 5-tert-butyl-2-(3-(2,3-dichlorophenyl)ureido)thiophene-3-carboxylic acid (317.2 mg, 83%). Coupling with the appropriate amine was performed as described above for Example 1.

reactant | 5-tert-butyl-2-aminothiophene-3-carboxylic acid | 1 mmol | C(C)(C)(C)C1=CC(=C(S1)N)C(=O)O | C9H13NO2S
reactant | 2,3-dichlorophenyl isocyanate | 1 mmol | ClC1=C(C=CC=C1Cl)N=C=O | C7H3Cl2NO
solvent | THF | 7 mL | C1CCOC1 | C4H8O
product | 5-tert-butyl-2-(3-(2,3-dichlorophenyl)ureido)thiophene-3-carboxylic acid | 317.2 mg, 83% | C(C)(C)(C)C1=CC(=C(S1)NC(=O)NC1=C(C(=CC=C1)Cl)Cl)C(=O)O | C16H16Cl2N2O3S
